US07030145B2
4-Methoxythiophenol (1.7 mL, 13.85 mmol) was added to a suspension of NaH 60% in oil (831 mg, 20.80 mmol) in DMF (30 mL) at 0° C., and the mixture was allowed to warm to 25° C. 3-Iodo-6-methyl-1H-pyridin-2-one (3 g, 12.78 mmol) was added to the solution at 0° C., followed by CuI (533 mg, 2.8 mmol). The reaction was stirred at 25° C. for 1 h and heated at 120° C. for 5 h. It was then allowed to cool and partitioned between CH2Cl2 (30 mL) and 9:1 NH4Cl/NH4OH (30 mL) and stirred for 15 min. The mixture was extracted with CH2Cl2 (3×70 mL each) and the combined CH2Cl2 extracts were washed with water (3×30 mL), brine, dried and stripped in vacuo to give the crude product (3.6 g), which was further purified by washing with ether to give 2.93 g of 3-(4-methoxyphenylsulfanyl)-6-methyl-1H-pyridin-2-one which was used in the next step.

reactant | 4-Methoxythiophenol | 13.85 mmol, 1.7 mL | COC1=CC=C(C=C1)S | C7H8OS
reactant | NaH | [H-].[Na+]
reactant | 3-Iodo-6-methyl-1H-pyridin-2-one | 12.78 mmol, 3 g | IC=1C(NC(=CC1)C)=O | C6H6INO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 2.8 mmol, 533 mg | [Cu]I
product | 3-(4-methoxyphenylsulfanyl)-6-methyl-1H-pyridin-2-one | 2.93 g | COC1=CC=C(C=C1)SC=1C(NC(=CC1)C)=O | C13H13NO2S
